US06908921B2
Tert-butyl 2-(4-bromophenyl)ethylcarbamate (500 mg, 1.67 mmol), imidazole (170 mg, 2.50 mmol), (CuOTf)2.PhH (84 mg, 0.17 mmol), 1,10-Phenanthroline (360 mg, 2.00 mmol), dba (39 mg, 0.17 mmol), and Cs2CO3 (650 mg, 1.99 mmol) were mixed together in a flask and o-xylene (10 mL) was added. Resulting solution was heated to 120° C. and stirred for four days. Reaction mixture was then cooled, poured into water (20 mL) and extracted with EtOAc (3×20 mL). Combined organics were washed with water (1×20 mL) and brine (2×20 mL), dried over sodium sulfate, filtered, and concentrated Crude product was purified by flash chromatography eluting with 25% Hexanes in EtOAC to pure EtOAc to give tert-butyl 2-[4-(1H-imidazol-1-yl)phenyl]ethylcarbamate.

reactant | Tert-butyl 2-(4-bromophenyl)ethylcarbamate | 1.67 mmol, 500 mg | BrC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H18BrNO2
reactant | imidazole | 2.50 mmol, 170 mg | N1C=NC=C1 | C3H4N2
reactant | PhH | 0.17 mmol, 84 mg | C1=CC=CC=C1 | C6H6
reactant | 1,10-Phenanthroline | 2.00 mmol, 360 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 1.99 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | 20 mL | O | H2O
solvent | o-xylene | 10 mL | CC=1C=CC=CC1C | C8H10
product | tert-butyl 2-[4-(1H-imidazol-1-yl)phenyl]ethylcarbamate | N1(C=NC=C1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H21N3O2
